US06987120B1
To a solution of [2-[(2,6-dichlorophenyl)amino]benzeneacetyloxy](L)-histidine (5 g, 11,54 mmoles) in tetrahydrofuran (100 ml) triphenylphosphine (9.08 g, 34.62 mmoles) and carbon tetrabromide (11.48 g, 34.62 mmoles) are added under stirring. The reaction mixture is left at room temperature for 24 hours, then the solvent is removed by evaporation at reduced pressure. The obtained crude product is purified by chromatography on silica gel eluting with n-hexane/ethyl acetate 1/1. (S)-[2-[(2,6-dichlorophenyl)amino]benzeneacetyloxy](L)-histidine 4-bromobutyl ester is obtained.

reactant | [2-[(2,6-dichlorophenyl)amino]benzeneacetyloxy](L)-histidine | 11,54 mmoles, 5 g | ClC1=C(C(=CC=C1)Cl)NC1=C(C=CC=C1)CC(=O)ON[C@@H](CC1=CNC=N1)C(=O)O | C20H18Cl2N4O4
reactant | tetrahydrofuran | 34.62 mmoles, 100 ml, 9.08 g | O1CCCC1 | C4H8O
reactant | carbon tetrabromide | 34.62 mmoles, 11.48 g | C(Br)(Br)(Br)Br | CBr4
product | (S)-[2-[(2,6-dichlorophenyl)amino]benzeneacetyloxy](L)-histidine 4-bromobutyl ester | BrCCCCOC([C@@H](NOC(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O)CC1=CNC=N1)=O | C24H25BrCl2N4O4
